US04465765
10 g of 2,2,6,6-tetramethyl-4-[3,3-bis-(3-tert.-butyl-6-methyl-4-hydroxyphenyl)-propionyloxy]-piperidine are stirred in 25 ml of acetic anhydride at 110° for 6 hours. The acetic acid formed and excess anhydride are then distilled off under vacuum as completely as possible. The residue is cooled down to room temperature, 100 ml of water are added and are mixed in efficiently, and the precipitate is filtered off, is washed with water and is dried. Crystallising from acetonitrile gives 1-acetyl-2,2,6,6-tetramethyl-4-[3,3-bis-(3-tert.-butyl-6-methyl-4-hydroxyphenyl)-propionyloxy]-piperidine having a melting point of 270° (optical stabiliser No. 2).

reactant | 2,2,6,6-tetramethyl-4-[3,3-bis-(3-tert.-butyl-6-methyl-4-hydroxyphenyl)-propionyloxy]-piperidine | 10 g | CC1(NC(CC(C1)OC(CC(C1=CC(=C(C=C1C)O)C(C)(C)C)C1=CC(=C(C=C1C)O)C(C)(C)C)=O)(C)C)C | C34H51NO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-2,2,6,6-tetramethyl-4-[3,3-bis-(3-tert.-butyl-6-methyl-4-hydroxyphenyl)-propionyloxy]-piperidine | C(C)(=O)N1C(CC(CC1(C)C)OC(CC(C1=CC(=C(C=C1C)O)C(C)(C)C)C1=CC(=C(C=C1C)O)C(C)(C)C)=O)(C)C | C36H53NO5
